US07338960B2
Ethyl 3-(3-fluoro-4-hydroxyphenyl)propanoate
A mixture of ethyl (2E)-3-{3-fluoro-4-[(phenylmethyl)oxy]phenyl}-2-propenoate (205 mg, 0.68 mmol) and 10% Pd/C catalyst (40 mg) in EtOH (4 mL) was stirred under an atmosphere of hydrogen at ambient temperature for 16.5 h. The mixture was then filtered through celite placed directly on the top of a SPE (silica, 5 g cartridge) eluting with EtOH. The filtrate was reduced under vacuum and the residue purified further by SPE (silica, 5 g cartridge) eluting with cyclohexane:EtOAc (gradient 25:1 to 3:1) to afford the title compound (140 mg).

reactant | ethyl (2E)-3-{3-fluoro-4-[(phenylmethyl)oxy]phenyl}-2-propenoate | 0.68 mmol, 205 mg | FC=1C=C(C=CC1OCC1=CC=CC=C1)/C=C/C(=O)OCC | C18H17FO3
catalyst | Pd/C | 40 mg | [Pd] | Pd
solvent | EtOH | 4 mL | CCO | C2H6O
product | Ethyl 3-(3-fluoro-4-hydroxyphenyl)propanoate | 140 mg | FC=1C=C(C=CC1O)CCC(=O)OCC | C11H13FO3
